US09227923B2
2,6-Dibromo-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)aniline (0.45 g) was dissolved in pyridine (5 ml). To the solution, the crude product of 4-(1H-1,2,4-triazol-1-yl)benzoyl chloride (0.45 g) was added and the mixture was refluxed under heating for 1.5 hours. After cooling to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with 2N hydrochloric acid and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a residue, which were then dissolved in tetrahydrofuran (20 ml), added with a 2N sodium hydroxide solution (5 ml) and stirred under heating at 50° C. for 2 hours. After cooling to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with water and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was purified by column chromatography to obtain N-[2,6-d]bromo-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)phenyl]-4-(1H-1,2,4-triazol-1-yl)benzamide (0.18 g, yield 28%).

reactant | 2,6-Dibromo-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)aniline | 0.45 g | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)Br | C9H4Br2F7N
reactant | 4-(1H-1,2,4-triazol-1-yl)benzoyl chloride | 0.45 g | N1(N=CN=C1)C1=CC=C(C(=O)Cl)C=C1 | C9H6ClN3O
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(1H-1,2,4-triazol-1-yl)benzamide | 0.18 g, yield 28% | N1(N=CN=C1)C1=CC=C(C(=O)N)C=C1 | C9H8N4O
